US04207320
3-Fluoro-10-methylimidazo[1,2-a:3,4-a']diquinolin-15-ium Chloride
A hot solution of 88 g. of 3-fluoro-10-methylimidazo[1,2-a:3,4-a']diquinolin-15-ium iodide in 6.4 l. of 6 N hydrochloric acid is cooled and the resulting precipitate of 3-fluoro-10-methylimidazo[1,2-a:3,4-a']diquinolin-15-ium chloride is collected by filtration, washed with 0.4 N hydrochloric acid, then with acetone, and dried; m.p. 345°-350° C. (dec.).

reactant | 3-fluoro-10-methylimidazo[1,2-a:3,4-a']diquinolin-15-ium iodide | [I-].FC1=CC=2C=CC3=[N+](C2C=C1)C=C1N3C=3C=CC(=CC3C=C1)C
reactant | hydrochloric acid | 6 N | Cl | ClH
product | 3-Fluoro-10-methylimidazo[1,2-a:3,4-a']diquinolin-15-ium Chloride | [Cl-].FC1=CC=2C=CC3=[N+](C2C=C1)C=C1N3C=3C=CC(=CC3C=C1)C | InChI=1S/C20H14FN2.ClH/c1-13-2-7-19-14(10-13)3-6-17-12-22-18-8-5-16(21)11-15(18)4-9-20(22)23(17)19;/h2-12H,1H3;1H/q+1;/p-1
